US04652566
[Preparation of 7-(3-chloro-2-hydroxypropoxy)-2-ethoxycarbonylbenzofuran]
There was dissolved 2.6 g (0.01 mole) of 7-(2,3-epoxypropoxy)-2-ethoxycarbonylbenzofuran obtained in Reference Example 9 in 15 ml of chloroform, and thereto 2 ml of concentrated hydrochloric acid was added. Thereafter, the mixture was vigorously stirred at room temperature for 15 minutes. After the chloroform layer was washed with water, the layer was dried with magnesium sulfate, and then the solvent was distilled away from the reaction mixture under reduced pressure. The resultant residue was purified by silica-gel column-chromatography (eluent:n-hexane:methylene chloride=1:1) to give the desired compound.

reactant | 7-(2,3-epoxypropoxy)-2-ethoxycarbonylbenzofuran | 0.01 mole, 2.6 g | O1C(COC2=CC=CC=3C=C(OC32)C(=O)OCC)C1 | C14H14O5
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(3-chloro-2-hydroxypropoxy)-2-ethoxycarbonylbenzofuran | ClCC(COC1=CC=CC=2C=C(OC21)C(=O)OCC)O | C14H15ClO5
